US04853469
Preparation of 6,7-difluoro-1H,4H-thiazolo[4,3-c][1,4]benzoxazine-1-thione [compound (XVIII)]
4-Hydroxymethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione (60 g) prepared in the same manner as in Reference Example 19 was dissolved in N,N-dimethylformamide (450 ml) and thereto potassium carbonate (60 g) was added and the mixture was stirred at 110° C. for 3 hours. After the reaction mixture was evaporated to dryness, water was added to the residue and the resultant was extracted with chloroform. The extract was washed with a NaCl solution and dried over anhydrous sodium sulfate, followed by distilling off the solvent under reduced pressure. The residue was recrystallized from a mixed solvent of hexane-ethyl acetate to give the title compound (51 g) as pale yellow crystals, m.p. 163°-167° C.

reactant | 4-Hydroxymethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione | 60 g | OCC=1N(C(SC1)=S)C1=C(C(=C(C=C1)F)F)F | C10H6F3NOS2
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | 6,7-difluoro-1H,4H-thiazolo[4,3-c][1,4]benzoxazine-1-thione | 51 g | FC1=C(C=CC=2N3C(COC21)=CSC3=S)F | C10H5F2NOS2
